US06100429
A mixture of 3-bromoaniline (1.72 g, 10 mmol), 2-methyl-3-butyn-2-ol (1.1 g, 13 mmol), benzaldehyde (0.3 g, 2.8 mmol, containing some benzoic acid impurity), triethylamine (3 g), toluene (3 g), dichlorobis(triphenylphosphine)palladium (15 mg), and triphenylphosphine (80 mg) was deaerated by bubbling nitrogen and heated to 80° C. and treated with CuI (10 mg). This mixture was refluxed for 7 hours. The cooled reaction mixture was treated with aq NaOH (3 mL, 5 mM). The aqueous phase was separated and the organic phase was distilled to remove TEA with more toluene being added. The resulting toluene solution was treated with aq HCl (5 mL, 9%). After 30 min the aqueous phase was separated and basified with 50% NaOH. The precipitated solid was filtered and dried to afford 1.2 g of 3-aminophenylacetylene dimethylcarbinol.

reactant | 3-bromoaniline | 10 mmol, 1.72 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 2-methyl-3-butyn-2-ol | 13 mmol, 1.1 g | CC(C)(C#C)O | C5H8O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | NaOH | 5 mM, 3 mL | [OH-].[Na+]
catalyst | dichlorobis(triphenylphosphine)palladium | 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | triphenylphosphine | 80 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 3 g | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
product | 3-aminophenylacetylene dimethylcarbinol | 1.2 g | CC(O)C.NC=1C=C(C=CC1)C#C | InChI=1S/C8H7N.C3H8O/c1-2-7-4-3-5-8(9)6-7;1-3(2)4/h1,3-6H,9H2;3-4H,1-2H3
